US05945565
In a 5-liter three-necked round-bottomed flask was placed 180 g of the previously prepared 4-amino-3-chloro-5-methoxyiminomethylbenzoic acid, 2 l of toluene, 3 mL of dimethylformamide and 104 g (64 mL) of thionyl chloride. The resulting mixture was heated at 70° C. for 2 hours, filtered while hot and the solvent removed using a rotary evaporator yielding 178.1 g of the expected 4-amino-3-chloro-5-methoxyiminomethylbenzoyl chloride.

reactant | 4-amino-3-chloro-5-methoxyiminomethylbenzoic acid | NC1=C(C=C(C(=O)O)C=C1C=NOC)Cl | C9H9ClN2O3
reactant | toluene | 2 l | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 64 mL, 104 g | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-amino-3-chloro-5-methoxyiminomethylbenzoyl chloride | 178.1 g | NC1=C(C=C(C(=O)Cl)C=C1C=NOC)Cl | C9H8Cl2N2O2
